US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)phenylacetic acid (444 mg) was mixed with 10 ml thionyl chloride and heated at reflux for 3 h. The reaction mixture was co-evaporated with toluene to give the crude 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)phenylacetyl chloride. N,O-bis(trimethylsilyl)acetamide (670 mg) was added at 0° C., under nitrogen atmosphere, to a mixture of D-Aspargine (225 mg) and 10 ml acetonitrile. The reaction mixture was further stirred at room temperature and a solution of 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)phenylacetyl chloride in 10 ml acetonitrile was added. After stirring for 16 h, the reaction mixture was poured into water and the solid filtered off. The solid was dissolved in methanol and the organic phase removed in vacuo. The residue was purified by HPLC to give 76 mg (14%) of D- N-[3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)phenylacetyl]aspargine. LC-MS (electrospray): m/z 557 (M−H).

reactant | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)phenylacetic acid | 444 mg | BrC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br)CC(=O)O | C17H16Br2O4
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)phenylacetyl chloride | BrC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br)CC(=O)Cl | C17H15Br2ClO3
